*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 4.4
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_0 1 2 3 4 REF
C_C1 1 REF 0.7069245724901pf
C_C2 1 2 22.262469093526pf
C_C3 1 3 0.0298088684555pf
C_C4 1 4 0.3053133405935pf
C_C5 2 REF 1.0147591223069pf
C_C6 2 3 0.1401569150184pf
C_C7 3 REF 1.1559822617886pf
C_C8 3 4 4.6020624883778pf
C_C9 4 REF 1.141520390196pf
L_L1 3 5 1.2923745186564nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_1 1 2 3 4 REF
C_C1 1 REF 0.5925191645752pf
C_C2 1 2 22.878498998198pf
C_C3 1 3 0.0276261184562pf
C_C4 1 4 0.3110316750455pf
C_C5 2 REF 0.9092410419168pf
C_C6 2 3 0.1434745808683pf
C_C7 3 REF 1.1548820520892pf
C_C8 3 4 3.3226761649379pf
C_C9 4 REF 1.1437646651518pf
L_L1 3 5 1.2933960103457nh
R_RL1 5 4 2.7936508104e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_2 1 2 3 4 REF
C_C1 1 REF 0.5119833428427pf
C_C2 1 2 23.523767306092pf
C_C3 1 3 0.0249180668679pf
C_C4 1 4 0.3177212003905pf
C_C5 2 REF 0.838706909905pf
C_C6 2 3 0.1468036147993pf
C_C7 3 REF 1.1542980847388pf
C_C8 3 4 2.4353486780852pf
C_C9 4 REF 1.1456713992751pf
L_L1 3 5 1.2942404069376nh
R_RL1 5 4 1.1794505554e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_3 1 2 3 4 REF
C_C1 1 REF 0.4477462147175pf
C_C2 1 2 24.378456857893pf
C_C3 1 3 0.0210762727612pf
C_C4 1 4 0.3272634153042pf
C_C5 2 REF 0.7883275333368pf
C_C6 2 3 0.1508679749118pf
C_C7 3 REF 1.1541259817632pf
C_C8 3 4 1.6784685341882pf
C_C9 4 REF 1.1475253084458pf
L_L1 3 5 1.295086836197nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_4 1 2 3 4 REF
C_C1 1 REF 0.404859232661pf
C_C2 1 2 25.464423077092pf
C_C3 1 3 0.0162026648478pf
C_C4 1 4 0.3399084096925pf
C_C5 2 REF 0.7634288696818pf
C_C6 2 3 0.1555424830717pf
C_C7 3 REF 1.1543905715288pf
C_C8 3 4 1.0786799407816pf
C_C9 4 REF 1.1490818632632pf
L_L1 3 5 1.2959223410777nh
R_RL1 5 4 -2.207229909e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_5 1 2 3 4 REF
C_C1 1 REF 0.3844182692582pf
C_C2 1 2 26.639907772429pf
C_C3 1 3 0.0111740081791pf
C_C4 1 4 0.3538187307194pf
C_C5 2 REF 0.7625024682271pf
C_C6 2 3 0.1601389747086pf
C_C7 3 REF 1.1548939793465pf
C_C8 3 4 0.6875198391063pf
C_C9 4 REF 1.150076214017pf
L_L1 3 5 1.2965865064799nh
R_RL1 5 4 -3.487121012e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_6 1 2 3 4 REF
C_C1 1 REF 0.3753127794553pf
C_C2 1 2 27.922725427527pf
C_C3 1 4 0.3689675906754pf
C_C4 2 REF 0.7744664679424pf
C_C5 2 3 0.1648252773954pf
C_C6 3 REF 1.1554290458851pf
C_C7 3 4 0.4238874165436pf
C_C8 4 REF 1.1506846706383pf
L_L1 3 5 1.2971224555565nh
R_RL1 5 4 -4.375204571e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_7 1 2 3 4 REF
C_C1 1 REF 0.3701973521434pf
C_C2 1 2 29.59424481984pf
C_C3 1 4 0.3884669271407pf
C_C4 2 REF 0.7962835493267pf
C_C5 2 3 0.1706756823699pf
C_C6 3 REF 1.155944351826pf
C_C7 3 4 0.2176008700455pf
C_C8 4 REF 1.1510826798162pf
L_L1 3 5 1.2976164186739nh
R_RL1 5 4 -4.941387397e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_8 1 2 3 4 REF
C_C1 1 REF 0.3646184022812pf
C_C2 1 2 31.753308447098pf
C_C3 1 4 0.4132320443726pf
C_C4 2 REF 0.8246826907461pf
C_C5 2 3 0.1780968726135pf
C_C6 3 REF 1.1563146749129pf
C_C7 3 4 0.0624694808245pf
C_C8 4 REF 1.1513098660673pf
L_L1 1 5 93.211836288378nh
R_RL1 5 2 7.4125640843004
L_L2 3 6 1.2980447927015nh
R_RL2 6 4 -5.076811158e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_9 1 2 3 4 REF
C_C1 1 REF 0.3537344843624pf
C_C2 1 2 34.625350859566pf
C_C3 1 4 0.4455637305431pf
C_C4 2 REF 0.8578252794874pf
C_C5 2 3 0.1879780941197pf
C_C6 3 REF 1.1564429730607pf
C_C7 4 REF 1.1514187123171pf
L_L1 1 5 59.55261501631nh
R_RL1 5 2 3.8749040712564
L_L2 3 6 1.2981800209293nh
R_RL2 6 4 -4.658377202e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_10 1 2 3 4 REF
C_C1 1 REF 0.3332969925778pf
C_C2 1 2 38.493334265041pf
C_C3 1 4 0.4884272031542pf
C_C4 2 REF 0.8953270518016pf
C_C5 2 3 0.2014453908415pf
C_C6 3 REF 1.1563030127888pf
C_C7 4 REF 1.1514795153384pf
L_L1 1 5 37.631339996386nh
R_RL1 5 2 -2.269463178949
L_L2 3 6 1.2979929988262nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_11 1 2 3 4 REF
C_C1 1 REF 0.2978523340362pf
C_C2 1 2 43.987628098882pf
C_C3 1 4 0.5486047312pf
C_C4 2 REF 0.9406996951419pf
C_C5 2 3 0.2208616334727pf
C_C6 3 REF 1.1558964646556pf
C_C7 4 REF 1.1515677255178pf
L_L1 1 5 22.82510900157nh
R_RL1 5 2 0.9341180950014
L_L2 3 6 1.2976494914325nh
R_RL2 6 4 -2.161889279e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_12 1 2 3 4 REF
C_C1 1 REF 0.2404660618572pf
C_C2 1 2 52.1156944977pf
C_C3 1 4 0.6370658723972pf
C_C4 2 REF 1.0016399792629pf
C_C5 2 3 0.2499065791326pf
C_C6 3 REF 1.1552616820182pf
C_C7 4 REF 1.1517859937381pf
L_L1 1 5 14.003308867958nh
R_RL1 5 2 0.9902756509873
L_L2 3 6 1.2971423342283nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_13 1 2 3 4 REF
C_C1 1 REF 0.1444179931661pf
C_C2 1 2 65.297902361116pf
C_C3 1 4 0.7802171353669pf
C_C4 2 REF 1.0968048606262pf
C_C5 2 3 0.2972864075945pf
C_C6 3 REF 1.1543989089944pf
C_C7 4 REF 1.1523367780129pf
L_L1 1 5 7.7803148957405nh
R_RL1 5 2 -1.44207017095
L_L2 3 6 1.2963030963703nh
R_RL2 6 4 1.4850000298e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_14 1 2 3 4 REF
C_C1 1 2 88.753650381791pf
C_C2 1 4 1.0350570321059pf
C_C3 2 REF 1.2657858892827pf
C_C4 2 3 0.3816826318563pf
C_C5 3 REF 1.1532387840137pf
C_C6 4 REF 1.1536543522113pf
R_R1 1 2 740.16558508739
L_L1 1 5 3.9066197642554nh
R_RL1 5 2 -0.374487075271
L_L2 3 6 1.2949527368504nh
R_RL2 6 4 3.1656330975e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_15 1 2 3 4 REF
C_C1 1 2 139.30918320801pf
C_C2 1 4 1.5851617409781pf
C_C3 2 REF 1.6328926714706pf
C_C4 2 3 0.5633791580774pf
C_C5 3 REF 1.1513923033062pf
C_C6 4 REF 1.1571022358826pf
R_R1 1 2 527.97332273982
L_L1 1 5 1.660442053514nh
R_RL1 5 2 -0.030325166828
L_L2 1 6 70.862062731623nh
R_RL2 6 3 -0.012069171735
L_L3 1 7 70.12724193849nh
R_RL3 7 4 -0.012308620733
L_L4 2 8 70.936613101791nh
R_RL4 8 3 5.4170828066e-4
L_L5 2 9 70.204545602626nh
R_RL5 9 4 5.4632969533e-4
L_L6 3 10 1.292165737963nh
R_RL6 10 4 4.3100147472e-5
Kn_K1 L_L1 L_L2 0.0731012442062
Kn_K2 L_L1 L_L3 0.0733556624027
Kn_K3 L_L1 L_L4 -0.079931967004
Kn_K4 L_L1 L_L5 -0.080475142221
Kn_K5 L_L2 L_L3 0.9908484664869
Kn_K6 L_L2 L_L4 0.9882902807387
Kn_K7 L_L2 L_L5 0.9790605243718
Kn_K8 L_L2 L_L6 -0.105914363702
Kn_K9 L_L3 L_L4 0.9791046327037
Kn_K10 L_L3 L_L5 0.9881678909487
Kn_K11 L_L3 L_L6 0.0292746411823
Kn_K12 L_L4 L_L5 0.9908581978615
Kn_K13 L_L4 L_L6 -0.10571490421
Kn_K14 L_L5 L_L6 0.0294030568965
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_16 1 2 3 4 REF
C_C1 1 2 308.17432515024pf
C_C2 1 4 3.4251734327432pf
C_C3 2 REF 2.8658291814402pf
C_C4 2 3 1.1695414511367pf
C_C5 3 REF 1.1464876482875pf
C_C6 4 REF 1.1699588651095pf
L_L1 1 5 63.461651504162nh
R_RL1 5 REF -2.457584424951
L_L2 1 6 0.509783046507nh
R_RL2 6 2 0.0014999466355
L_L3 1 7 25.193156598026nh
R_RL3 7 3 0.0078872210103
L_L4 1 8 24.506652970882nh
R_RL4 8 4 0.0078556615846
L_L5 2 9 63.053647196133nh
R_RL5 9 REF -2.418718733289
L_L6 2 10 25.273624199002nh
R_RL6 10 3 -8.518899994e-4
L_L7 2 11 24.590965331532nh
R_RL7 11 4 -8.147058755e-4
L_L8 3 12 88.040709647284nh
R_RL8 12 REF -2.436961042087
L_L9 3 13 1.2833206620551nh
R_RL9 13 4 4.3455142451e-5
L_L10 4 14 87.344423452128nh
R_RL10 14 REF -2.436728842682
Kn_K1 L_L1 L_L2 0.080679592286
Kn_K2 L_L1 L_L5 0.9959757610127
Kn_K3 L_L1 L_L8 0.8449043620719
Kn_K4 L_L1 L_L10 0.848199654418
Kn_K5 L_L2 L_L3 0.0598980288232
Kn_K6 L_L2 L_L4 0.0601873127117
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082220482404
Kn_K9 L_L2 L_L7 -0.083896861835
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9742715092497
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9898998997975
Kn_K15 L_L3 L_L7 0.9639757134377
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.173216239613
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9641713146264
Kn_K21 L_L4 L_L7 0.9896184087258
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0532110245619
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8443555076646
Kn_K26 L_L5 L_L10 0.8476225004995
Kn_K27 L_L6 L_L7 0.9743552005637
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.172602722129
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0534619298272
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0931192765506
Kn_K35 L_L8 L_L10 0.9926906654281
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_17 1 2 3 4 REF
C_C1 1 2 3208.9960981605pf
C_C2 1 4 35.060206791712pf
C_C3 2 REF 24.070192787817pf
C_C4 2 3 11.580481976713pf
C_C5 3 REF 1.0701071321766pf
C_C6 4 REF 1.4007666485655pf
R_R1 1 REF 250.02858043718
R_R2 1 2 -2.124031666712
R_R3 1 3 683.43193968803
R_R4 1 4 -184.1962253294
R_R5 2 REF -253.1894634979
R_R6 2 3 -683.5420899185
R_R7 2 4 184.21571353835
L_L1 1 5 3.7350601855934nh
R_RL1 5 REF -7.033971692e-3
L_L2 1 6 0.0330818414012nh
R_RL2 6 2 0.0049552788791
L_L3 1 7 2.4971097739609nh
R_RL3 7 3 0.0026777952165
L_L4 1 8 1.9093473721224nh
R_RL4 8 4 0.0035163841871
L_L5 2 9 3.7140189228152nh
R_RL5 9 REF -7.409694418e-4
L_L6 2 10 2.5035895066212nh
R_RL6 10 3 3.5077688534e-4
L_L7 2 11 1.9204349701073nh
R_RL7 11 4 1.1207728264e-4
L_L8 3 12 6.1965612324607nh
R_RL8 12 REF -3.444483954e-3
L_L9 3 13 1.1460837380239nh
R_RL9 13 4 8.4650986058e-5
L_L10 4 14 5.6024506135728nh
R_RL10 14 REF -2.476352785e-3
Kn_K1 L_L1 L_L2 0.0769855225144
Kn_K2 L_L1 L_L5 0.9955629071318
Kn_K3 L_L1 L_L8 0.7726775167133
Kn_K4 L_L1 L_L10 0.8119207372427
Kn_K5 L_L2 L_L3 0.0462777689894
Kn_K6 L_L2 L_L4 0.0437564137241
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.068733295666
Kn_K9 L_L2 L_L7 -0.087618789922
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.011832234518
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7465794911309
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9933853908812
Kn_K16 L_L3 L_L7 0.7383472921629
Kn_K17 L_L3 L_L8 0.9449922792335
Kn_K18 L_L3 L_L9 -0.512452442941
Kn_K19 L_L3 L_L10 0.9929871278093
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7405828757024
Kn_K22 L_L4 L_L7 0.9913661072248
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1887137653047
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7719947942996
Kn_K27 L_L5 L_L10 0.8106956861461
Kn_K28 L_L6 L_L7 0.7474630660374
Kn_K29 L_L6 L_L8 0.9402749509004
Kn_K30 L_L6 L_L9 -0.510428725664
Kn_K31 L_L6 L_L10 0.9874118998143
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1897211743853
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3265007719171
Kn_K36 L_L8 L_L10 0.9040128614762
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_18 1 2 3 4 REF
C_C1 1 REF 27.974211161767pf
C_C2 1 3 13.537568188698pf
C_C3 2 4 40.92012822365pf
C_C4 3 REF 1.2524690192649pf
C_C5 4 REF 0.8467128471309pf
R_R1 1 REF -320.3816735702
R_R2 1 2 2.8670072645315
R_R3 1 3 -994.8823921414
R_R4 1 4 242.18835999993
R_R5 2 REF 317.8924009933
R_R6 2 3 994.35052984788
R_R7 2 4 -242.1933264015
L_L1 1 5 2.6509815992778nh
R_RL1 5 REF -2.834030628e-3
L_L2 1 6 0.3531062119723nh
R_RL2 6 2 -0.99954802581
L_L3 1 7 2.0554954482643nh
R_RL3 7 3 -0.411140584933
L_L4 1 8 1.5791350489311nh
R_RL4 8 4 -0.640102178264
L_L5 2 9 2.984898786596nh
R_RL5 9 REF -1.081199598722
L_L6 2 10 1.9703248987414nh
R_RL6 10 3 -0.128524570191
L_L7 2 11 1.3929887068174nh
R_RL7 11 4 -0.039858149176
L_L8 3 12 4.7046914406655nh
R_RL8 12 REF -0.464353544411
L_L9 3 13 1.0980291229867nh
R_RL9 13 4 -0.025225669332
L_L10 4 14 4.2370687344598nh
R_RL10 14 REF -0.70587389542
Kn_K1 L_L1 L_L5 0.9389963173365
Kn_K2 L_L1 L_L8 0.750397704236
Kn_K3 L_L1 L_L10 0.7920264556883
Kn_K4 L_L2 L_L3 0.257221643972
Kn_K5 L_L2 L_L4 0.3610770617319
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.16061234575
Kn_K8 L_L2 L_L7 -0.119029778424
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0810826000516
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7039702913497
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9124938546799
Kn_K15 L_L3 L_L7 0.6200270282027
Kn_K16 L_L3 L_L8 0.8521903138505
Kn_K17 L_L3 L_L9 -0.523982769432
Kn_K18 L_L3 L_L10 0.8994660698464
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.5661680564245
Kn_K21 L_L4 L_L7 0.882927365874
Kn_K22 L_L4 L_L8 0.9722662644237
Kn_K23 L_L4 L_L9 0.2360545939552
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0516535180896
Kn_K26 L_L5 L_L7 0.0345296291771
Kn_K27 L_L5 L_L8 0.7630972206939
Kn_K28 L_L5 L_L9 -0.030301092234
Kn_K29 L_L5 L_L10 0.8195301239889
Kn_K30 L_L6 L_L7 0.6836755266442
Kn_K31 L_L6 L_L8 0.9392382134161
Kn_K32 L_L6 L_L9 -0.569513039478
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.21050914085
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3444234335514
Kn_K38 L_L8 L_L10 0.8784041341926
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_19 1 2 3 4 REF
C_C1 1 2 291.6782993344pf
C_C2 1 4 3.2423994817462pf
C_C3 2 REF 2.758737364924pf
C_C4 2 3 1.1078160056419pf
C_C5 3 REF 1.1467107285034pf
C_C6 4 REF 1.1682050276039pf
R_R1 1 2 40.612898429004
L_L1 1 5 38.405273044635nh
R_RL1 5 REF 0.36681083943
L_L2 1 6 0.1721690925741nh
R_RL2 6 2 -0.013039141571
L_L3 1 7 15.28212013765nh
R_RL3 7 3 -1.919669765e-3
L_L4 1 8 14.595004437263nh
R_RL4 8 4 -2.181777643e-3
L_L5 2 9 38.018143178993nh
R_RL5 9 REF 0.3712002132814
L_L6 2 10 15.396250540027nh
R_RL6 10 3 -3.187705781e-3
L_L7 2 11 14.717113284437nh
R_RL7 11 4 -2.900779217e-3
L_L8 3 12 53.302940025646nh
R_RL8 12 REF 0.3865805012703
L_L9 3 13 1.2719945443202nh
R_RL9 13 4 -2.306859289e-5
L_L10 4 14 52.606427985419nh
R_RL10 14 REF 0.3866885192887
Kn_K1 L_L1 L_L2 0.108752936125
Kn_K2 L_L1 L_L5 0.9977599697824
Kn_K3 L_L1 L_L8 0.8445797256175
Kn_K4 L_L1 L_L10 0.8500479582202
Kn_K5 L_L2 L_L3 0.0178903240536
Kn_K6 L_L2 L_L4 0.0157900413617
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.087923608978
Kn_K9 L_L2 L_L7 -0.092435501019
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9576791011833
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9943948135874
Kn_K15 L_L3 L_L7 0.9517628472363
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.222174622519
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9524531658517
Kn_K21 L_L4 L_L7 0.9941349770965
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0678720828283
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8433013872978
Kn_K26 L_L5 L_L10 0.8486714525181
Kn_K27 L_L6 L_L7 0.9580034614866
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.220448172241
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0685119339879
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1195332340661
Kn_K35 L_L8 L_L10 0.9880111485971
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_20 1 2 3 4 REF
C_C1 1 REF 0.1099562460751pf
C_C2 1 2 72.917806715868pf
C_C3 1 4 0.8564801356278pf
C_C4 2 REF 1.1671874455296pf
C_C5 2 3 0.3216177757601pf
C_C6 3 REF 1.1519756900131pf
C_C7 4 REF 1.1502140715553pf
R_R1 1 2 164.24166338303
L_L1 1 5 0.5769062446407nh
R_RL1 5 2 0.073681395038
L_L2 1 6 59.952300077342nh
R_RL2 6 3 0.0392024807738
L_L3 1 7 59.111271965712nh
R_RL3 7 4 0.0396702194271
L_L4 2 8 60.516911787493nh
R_RL4 8 3 1.0603421606e-4
L_L5 2 9 59.684203997486nh
R_RL5 9 4 1.5382172705e-4
L_L6 3 10 1.2863605092933nh
R_RL6 10 4 -3.690975564e-5
Kn_K1 L_L1 L_L4 -0.096596580421
Kn_K2 L_L1 L_L5 -0.097977068901
Kn_K3 L_L2 L_L3 0.9892206987538
Kn_K4 L_L2 L_L4 0.9952221032494
Kn_K5 L_L2 L_L5 0.9843585250423
Kn_K6 L_L2 L_L6 -0.121124657503
Kn_K7 L_L3 L_L4 0.9845620371518
Kn_K8 L_L3 L_L5 0.9951552755314
Kn_K9 L_L3 L_L6 0.0255351135536
Kn_K10 L_L4 L_L5 0.989322004845
Kn_K11 L_L4 L_L6 -0.120086788519
Kn_K12 L_L5 L_L6 0.0258870445025
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_21 1 2 3 4 REF
C_C1 1 REF 0.42586733737pf
C_C2 1 2 30.37136178209pf
C_C3 1 3 0.0186604871183pf
C_C4 1 4 0.3919202565883pf
C_C5 2 REF 0.8618445638595pf
C_C6 2 3 0.1673774879341pf
C_C7 3 REF 1.1521601397615pf
C_C8 4 REF 1.1456849491709pf
L_L1 1 5 0.9277215733221nh
R_RL1 5 2 -5.372165662e-3
L_L2 3 6 1.2882214809821nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_22 1 2 3 4 REF
C_C1 1 REF 0.5353803744374pf
C_C2 1 2 15.897613375575pf
C_C3 1 3 0.0769530947126pf
C_C4 1 4 0.2324149231191pf
C_C5 2 REF 0.7603376258222pf
C_C6 2 3 0.1128141262553pf
C_C7 3 REF 1.1516078368385pf
C_C8 4 REF 1.1434143059538pf
L_L1 1 5 1.329340539833nh
R_RL1 5 2 0.0139468558868
L_L2 3 6 1.2856662357325nh
R_RL2 6 4 -2.09933558e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_23 1 2 3 4 REF
C_C1 1 REF 0.5825310503417pf
C_C2 1 2 10.235254858665pf
C_C3 1 3 0.1061738274123pf
C_C4 1 4 0.1675313878444pf
C_C5 2 REF 0.7256444942833pf
C_C6 2 3 0.0881807820131pf
C_C7 2 4 0.0386133866176pf
C_C8 3 REF 1.150608125168pf
C_C9 4 REF 1.1415633743441pf
R_R1 1 2 -824.4467684785
L_L1 1 5 1.7196396783251nh
R_RL1 5 2 0.0862867673575
L_L2 3 6 1.2827924141902nh
R_RL2 6 4 7.3772733231e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_24 1 2 3 4 REF
C_C1 1 REF 0.6076818272762pf
C_C2 1 2 8.2724310472709pf
C_C3 1 3 0.1272197274212pf
C_C4 1 4 0.1395815726346pf
C_C5 2 REF 0.7243298967668pf
C_C6 2 3 0.0727106036882pf
C_C7 2 4 0.0724176079491pf
C_C8 3 REF 1.14925462955pf
C_C9 4 REF 1.1396262728858pf
L_L1 1 5 1.8510487776676nh
R_RL1 5 2 0.0178867523369
L_L2 3 6 1.2791018656487nh
R_RL2 6 4 2.2929266638e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_25 1 2 3 4 REF
C_C1 1 REF 0.6200875837467pf
C_C2 1 2 8.032743312586pf
C_C3 1 3 0.1516851463152pf
C_C4 1 4 0.124696360535pf
C_C5 2 REF 0.7383909855226pf
C_C6 2 3 0.0553977859187pf
C_C7 2 4 0.0947950588695pf
C_C8 3 REF 1.147444018286pf
C_C9 4 REF 1.1372362685654pf
L_L1 1 5 1.8491632577868nh
R_RL1 5 2 -6.496084565e-4
L_L2 3 6 1.2745684190701nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_26 1 2 3 4 REF
C_C1 1 REF 0.6215239975367pf
C_C2 1 2 8.817881632146pf
C_C3 1 3 0.173792579811pf
C_C4 1 4 0.1190448229015pf
C_C5 2 REF 0.757697343891pf
C_C6 2 3 0.0390249882584pf
C_C7 2 4 0.1064637106352pf
C_C8 3 REF 1.1459938409024pf
C_C9 4 REF 1.135318833102pf
L_L1 1 5 1.7129158557313nh
R_RL1 5 2 2.7125197449e-5
L_L2 3 6 1.2726149457253nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param10_26

